Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:11].[H:1][C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])/[C:8]([H:9])=[C:10]/[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-4.78514988984
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:7](\[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6],4.62094549374
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],1.97914862163
[C:1]#[C:2][O:3][C:4][C:5]([H:6])[H:7].[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-4.74410645511
[H:1][C:2]([H:3])[C:4]#[C:5][H:6].[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.26529288246
[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12]1>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])[H:7])[O:12][C:11]=[C:8]([H:9])[H:10],1.13215620975
[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-3.67959123335
[H:14].[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.58126784703
[H:1][C:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][C:3]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4],1.76061400289
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],1.93363103447
[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[O:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-4.60946554617
[C:5]([H:6])[O:7][C:8]([H:9])[H:10].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10],-1.81343411272
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-3.70524634015
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:10].[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C:8]([H:9])[C:11]1([H:12])[H:13],3.91121131699
[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-8.361282395
[O:1]=[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1]=[C:2][O:3]/[C:4]([H:5])=[C:6]\[C:8]([H:9])([H:10])[H:11],4.81748772935
[C:1]#[C:2].[C:3](#[C:4][O:5][H:6])[O:7][H:8]>>[C:1]#[C:2][C:3]([C:4][O:5][H:6])[O:7][H:8],-4.6486987798
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8][H:9]>>[C:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7].[C:8][H:9],10.0260495548
[H:1][C:2][O:3][C:4]1[C:5]([H:6])([H:7])[C:8]1([H:9])[H:10]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])[H:7])=[C:8]([H:9])[H:10],-1.22336691362
[C:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1].[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],5.22945907821
[H:1][C:2]([H:3])=[C:4][C@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.86426277952
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[H:1][C:2],10.6536027464
[H:4].[O:1]=[C:2]([H:3])[C:5](=[O:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][C:2]([H:3])([H:4])[C:5](=[O:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.55341016972
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:13].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11][H:12],5.34832924911
[O:1][C@@:2]([H:3])([C:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:3].[O:1]=[C:2]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],1.20910129294
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[H:7]>>[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[H:7],4.1204617881
[O:1]=[C:2]([H:3])/[C:4](=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4](=[C:5](\[H:6])[O:7][H:8])\[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3],4.63121622766
[O:1]=[C:2]([H:3])[C:4]([O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11]>>[C:6]([H:7])[H:8].[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:9]([H:10])[H:11],4.1552036930300025
[C:3]([H:4])(=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-2.68742944421
